US04474692
Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester oxalate (3.5 g) is dissolved in 20 ml of methanol, and 1 g of sodium acetate, 1.2 g of acetic acid, 8 g of molecular sieve and 15 g of ethyl 2-oxo-4-phenylbutyrate are added. To this mixture is added dropwise with stirring a solution of 3.3 g of sodium cyanoborohydride in 30 ml of methanol over 2 hours. 3 g of sodium cyanoborohydride is further added, and the mixture is stirred for 3 hours. After addition of 200 ml of 25% aqueous phosphoric acid, the reaction mixture is extracted with two 200-ml portions of ethyl acetate. The extract is washed with 0.5N aqueous sodium hydroxide and with water, and dried over anhydrous magnesium sulfate. The ethyl acetate is distilled off under reduced pressure, and the oil thus obtaned is separated and purified by silica gel column chromatography (acetone-benzene (1:12 to 1:5)). The first fraction gives 1.1 g of Nα -[1-(R)-ethoxycarbonyl-3-phenylpropyl]-Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester as an oil.

reactant | Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester oxalate | 3.5 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 2-oxo-4-phenylbutyrate | 15 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | 3.3 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 3 g | C(#N)[BH3-].[Na+]
reactant | phosphoric acid | 200 ml | P(O)(O)(O)=O | H3O4P
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
solvent | acetic acid | 1.2 g | C(C)(=O)O | C2H4O2
product | Nα -[1-(R)-ethoxycarbonyl-3-phenylpropyl]-Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester | 1.1 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@H](CCC1=CC=CC=C1)C(=O)OCC)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C41H53N3O7
